US07947676B2
2-[(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]ethanol
The procedure described in Example 1 was repeated using N′-[4-cyano-3-(2-hydroxyethoxy)-1H-pyrazol-5-yl]-N,N-dimethylimidoformamide (1.50 g, 6.72 mmol) and 3-chloro-4-(pyridin-2-ylmethoxy)aniline (1.58 g, 6.72 mmol) to give the title compound as a while solid (2.40 g, 87%); NMR Spectrum: 3.80 (t, 2H), 4.32 (t, 2H), 5.30 (s, 2H), 7.26 (d, 1H), 7.36-7.38 (m, 1H), 7.55-7.59 (m, 2H), 7.86-7.90 (m, 2H), 8.28 (s, 1H), 8.48 (br s, 1H), 8.59 (d, 1H); Mass Spectrum: 413 (MH+).

reactant | N′-[4-cyano-3-(2-hydroxyethoxy)-1H-pyrazol-5-yl]-N,N-dimethylimidoformamide | 6.72 mmol, 1.50 g | C(#N)C=1C(=NNC1N=CN(C)C)OCCO | C9H13N5O2
reactant | 3-chloro-4-(pyridin-2-ylmethoxy)aniline | 6.72 mmol, 1.58 g | ClC=1C=C(N)C=CC1OCC1=NC=CC=C1 | C12H11ClN2O
product | 2-[(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]ethanol | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=C2C(=NC=N1)NN=C2OCCO | C19H17ClN6O3
